US06258829B1
Methyl 2-chloro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate
2-Chloro-3-cyano-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine (1.50 g, 7.26 mmol) was suspended in 5% sodium hydroxide aqueous solution (25.0 ml) and heated under reflux for 3.5 hours. The reaction solution was adjusted to pH 3 to 4 with concentrated hydrochloric acid and 5% hydrochloric acid at 0° C. and extracted with chloroform, and the thus obtained organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the thus formed crude crystals were washed with ether to obtain crude carboxylic acid. The crude carboxylic acid was dissolved in chloroform (20.0 ml) to which was subsequently added dropwise ether solution of diazomethane at 0° C. until the material crude carboxylic acid disappeared. Formic acid was added dropwise to the reaction solution at 0° C. to effect decomposition of excess diazomethane, the resulting solution was mixed with saturated sodium bicarbonate aqueous solution and extracted with methylene chloride, and then the thus obtained organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. After evaporation of the solvent under reduced pressure, the resulting residue was purified by a silica gel column chromatography (ether:hexane=2:1) to obtain the title compound (1.50 g, 86.3%) as white powder.

reactant | 2-Chloro-3-cyano-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine | 7.26 mmol, 1.50 g | ClC1=C(C=C2C(=N1)CCCCC2)C#N | C11H11ClN2
reactant | hydrochloric acid | Cl | ClH
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sodium hydroxide | 25.0 ml | [OH-].[Na+]
solvent | chloroform | 20.0 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Formic acid | C(=O)O | CH2O2
solvent | ether | CCOCC | C4H10O
product | Methyl 2-chloro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 1.50 g, 86.3% | ClC1=C(C=C2C(=N1)CCCCC2)C(=O)OC | C12H14ClNO2
